US05852016
A mixture of N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(cyanomethyl)methanesulphonamide (100 mg, 0.256 mmol) and tributyltin azide (170 mg, 0.512 mmol) (Synthesis, 1976, 329) in toluene (10 ml) was heated at reflux for 18 hours. After cooling the mixture was concentrated under reduced pressure and the residue purified by flash chromatography (gradient elution from dichloromethane to 90:10:1 dichloromethane: methanol:ammonia) to give N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(5-tetrazolylmethyl) methanesulphonamide as an off-white solid (78 mg, 70%).

reactant | N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(cyanomethyl)methanesulphonamide | 0.256 mmol, 100 mg | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)N(S(=O)(=O)C)CC#N | C13H12Cl2N4O4S
reactant | tributyltin azide | 0.512 mmol, 170 mg | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(5-tetrazolylmethyl) methanesulphonamide | 78 mg, 70% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)N(S(=O)(=O)C)CC1=NN=NN1 | C13H13Cl2N7O4S
